US09169254B2
A solution of 4-(2-oxo-ethyl)-cyclohexanecarboxylic acid benzyl ester (trans:cis=4:1) (21.4 mg, 0.082 mmol) in dimethylformamide (0.3 ml) was added to a solution of sodium chlorodifluoroacetate (34.1 mg, 0.224 mmol) and triphenylphosphine (59.9 mg, 0.228 mmol) in dimethylformamide (0.41 ml) at 90 to 95° C. over five minutes, and the mixture was stirred at 130° C. for four hours. Sodium chlorodifluoroacetate (34.0 mg, 0.22 mmol) was then added to the reaction mixture at the same temperature, and the mixture was further stirred for two hours. The reaction mixture was diluted with ether, and the organic layer was washed with water, dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 4-(3,3-difluoro-allyl)-cyclohexanecarboxylic acid benzyl ester (trans:cis=4:1) (14.1 m, 58%).

reactant | 4-(2-oxo-ethyl)-cyclohexanecarboxylic acid benzyl ester | 0.082 mmol, 21.4 mg | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC=O | C16H20O3
reactant | sodium chlorodifluoroacetate | 0.224 mmol, 34.1 mg | ClC(C(=O)[O-])(F)F.[Na+]
reactant | triphenylphosphine | 0.228 mmol, 59.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Sodium chlorodifluoroacetate | 0.22 mmol, 34.0 mg | ClC(C(=O)[O-])(F)F.[Na+]
solvent | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.41 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 4-(3,3-difluoro-allyl)-cyclohexanecarboxylic acid benzyl ester | 58% | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC=C(F)F | C17H20F2O2
